US04826878
Preparation of 2-naphthoyl-glutamic anhydride
30.6 g (0.3 moles) of acetic anhydride with 60 ml of isopropyl ether are added to 30.1 g (0.1 moles) of 2-naphthoyl glutamic acid. The mixture is heated under reflux (73°-77° C.) for 2 hours. It is cooled, filtered, washed with a little ether to remove residual acetic anhydride and dried. 24.8 g are thus obtained. Yield 88%.

reactant | acetic anhydride | 0.3 moles, 30.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-naphthoyl glutamic acid | 0.1 moles, 30.1 g | C1=C(C=CC2=CC=CC=C12)C(=O)N[C@@H](CCC(=O)O)C(=O)O | C16H15NO5
solvent | isopropyl ether | 60 ml | C(C)(C)OC(C)C | C6H14O
product | 2-naphthoyl-glutamic anhydride | C1=C(C=CC2=CC=CC=C12)C(=O)N[C@H]1CCC(=O)OC1=O | C16H13NO4
